datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[C:27]([H:28])([H:29])[H:30]>>[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:17][C:27]([H:28])([H:29])[H:30],44.220696
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([C:9]([c:10]1[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]([H:24])[c:15]1[H:25])([H:19])[H:20])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:19])([H:3])[H:4].[C:8]([C:9]([c:10]1[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]([H:24])[c:15]1[H:25])[H:20])([H:16])([H:17])[H:18],-0.8368
[C:0]([C:1]([S:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[C:9]([C:10]([c:11]1[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]1[H:25])[H:20])([H:17])([H:18])[H:19]>>[C:0]([C:1]([S:2][H:8])[H:7])([H:3])([H:4])[H:5].[H:6][C:10]([C:9]([H:17])([H:18])[H:19])([c:11]1[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]1[H:25])[H:20],46.024
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:12])[H:11].[H:21]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:21])[H:12])[H:11],13.6817
[C:0]([S:1])([H:2])([H:3])[H:4].[S:5]([S:6][H:8])[H:7]>>[C:0]([S:1][S:5][S:6][H:8])([H:2])([H:3])[H:4].[H:7],85.6883
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([S:7][H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]([H:4])([H:5])[S:7][C:6]([H:8])([H:9])[H:10])([H:2])([H:3])[H:11],172.799
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[H:7])[H:6])[H:5].[C:11](=[C:12]([C:13]([C:14]([H:19])([H:20])[H:21])[C:15]([H:22])([H:23])[H:24])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])[H:7])([H:6])[C:13]([C:12](=[C:11]([H:16])[H:17])[H:18])([C:14]([H:19])([H:20])[H:21])[C:15]([H:22])([H:23])[H:24])[H:5],47.1118
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([C:18]([C:19]([C:20]([C:21]([H:30])([H:31])[H:32])([H:28])[H:29])([H:26])[H:27])[H:25])([H:22])([H:23])[H:24]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][C:18]([C:17]([H:22])([H:23])[H:24])([C:19]([C:20]([C:21]([H:30])([H:31])[H:32])([H:28])[H:29])([H:26])[H:27])[H:25],51.4632
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([H:19])[H:20])[H:18])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])[H:10])([H:8])[H:9]>>[C:0](=[C:1]([C:2]1([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]([H:18])[C:7]1([H:19])[H:20])[H:10])([H:8])[H:9],67.8645
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([O:3][O:4][H:11])[H:7])([H:5])[H:6].[O:12][O:13]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([O:3][O:4][H:11])[H:7])([H:5])([H:6])[O:12][O:13],0.8313608
[C:0]([O:1][C:2](=[O:3])[O:4][O:5][H:8])([H:6])[H:7]>>[C:0]1([H:6])([H:7])[O:1][C:2](=[O:3])[O:4]1.[O:5][H:8],63.806
[C:0]([C:1]([O:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[C:9]([H:10])([H:11])[H:12]>>[C:0]([C:1]([O:2][H:8])[H:7])([H:3])([H:4])[H:5].[H:6][C:9]([H:10])([H:11])[H:12],31.92392
[C:0](=[C:1]([O:2][O:3][C:4]([H:10])([H:11])[H:12])[C:5]([C:6]([H:13])([H:14])[H:15])[C:7]([H:16])([H:17])[H:18])([H:8])[H:9]>>[C:0](=[C:1]1[O:2][C:5]1([C:6]([H:13])([H:14])[H:15])[C:7]([H:16])([H:17])[H:18])([H:8])[H:9].[O:3][C:4]([H:10])([H:11])[H:12],63.953
[C:0](=[C:1][C:2](=[S:3])[H:6])([H:4])[H:5].[S:7]=[C:8]([S:9][H:11])[H:10]>>[C:0](=[C:1]([C:2](=[S:3])[H:6])[H:11])([H:4])[H:5].[S:7]=[C:8]([S:9])[H:10],25.9408
[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[Cl:18]>>[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])[H:12])([H:8])([H:9])[H:10].[H:11][Cl:18],6.4063
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[H:11].[C:21](#[C:22][C:23]([H:25])[H:26])[H:24]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[C:23]([C:22]#[C:21][H:24])([H:25])[H:26])[H:11],42.9697
[C:0]([C:1](=[O:2])[C:3]([C:4]([H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[H:9])([H:6])([H:7])[H:8].[O:16][H:17]>>[C:0]([C:1](=[O:2])[C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])([H:6])([H:7])[H:8].[H:9][O:16][H:17],-16.874072
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[H:7]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][H:7],12.9704
